US04031221
By following the manipulative procedure described in Example 1(b), a solution of 8.3 g of 1-benzyl-4-(o-tolyloxy)piperidine in 100 ml. of ethanol produces a colorless oil of 4-(o-tolyloxy)piperidine.

reactant | 1-benzyl-4-(o-tolyloxy)piperidine | 8.3 g | C(C1=CC=CC=C1)N1CCC(CC1)OC1=C(C=CC=C1)C | C19H23NO
solvent | ethanol | C(C)O | C2H6O
product | 4-(o-tolyloxy)piperidine | C1(=C(C=CC=C1)OC1CCNCC1)C | C12H17NO
